US06498251B1
Synthesis Example 3a (The Inventive Compound) 2a-[4-(6-Methoxy-2,3,4,9-tetrahydro-1H-prido[3,4-b]indol-2-yl)-butyl]-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
A 295 mg (1.46 mmol) portion of 6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole and 404 mg (2.91 mmol) of potassium carbonate were added to 7 ml of DMF solution containing 300 mg (0.97 mmol) of 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one and stirred overnight at room temperature. The reaction solution was extracted with ethyl acetate and washed with water. After drying (Na2SO4), the solvent was removed by evaporation under a reduced pressure and the thus obtained oil was purified by a silica gel column chromatography (80 cc; elution by chloroform-methanol=15:1) and recrystallized from acetone-diisopropyl ether to obtain 369 mg of the title compound (88% in yield).

reactant | 6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | COC=1C=C2C3=C(NC2=CC1)CNCC3 | C12H14N2O
reactant | potassium carbonate | 2.91 mmol, 404 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 0.97 mmol, 300 mg | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2a-[4-(6-Methoxy-2,3,4,9-tetrahydro-1H-prido[3,4-b]indol-2-yl)-butyl]-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 369 mg, 88% | COC=1C=C2C3=C(NC2=CC1)CN(CC3)CCCCC31C(NC=2C=CC=C(C32)CCC1)=O | C27H31N3O2
